US06797723B1
Preparation of 2-(3-{3-[2-Ethyl-5-hydroxy-4-(2H-pyrazol-3-yl)phenoxy]propoxy}-2-propyl-phenoxy)benzoic acid.
A mixture of 2-(3-{3-[4-acetyl-5-benzyloxy-2-ethylphenoxy]propoxy}-2-propylphenoxy)benzoic acid methyl ester (3.07 g, 5.04 mmol) and dimethylformamide dimethylacetal (0.9 mL, 7 mmol) in N,N-dimethylformamide (3 mL) was heated at 110-120° C. for 35 h. The mixture was cooled to room temperature and diluted with a mixture of ethyl acetate and 1 N hydrochloric acid. The organic layer was separated, washed twice with water, once with saturated sodium chloride solution, dried (sodium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, 30% ethyl acetate/70% hexane to ethyl acetate) of the residue provided 2.1 g (63%) of the title compound as a yellow oil. TQF MS ES+ exact mass calculated for C40H46NO7 (p+1): m/z=652.3274. Found: 652.3270. IR (CHCl3, cm−1) 2965, 1720, 1605. Anal. Calcd for C40H45NO7: C, 73.71; H, 6.96; N, 2.15. Found: C, 73.72; H, 6.95; N, 2.18.

reactant | 2-(3-{3-[4-acetyl-5-benzyloxy-2-ethylphenoxy]propoxy}-2-propylphenoxy)benzoic acid methyl ester | 5.04 mmol, 3.07 g | COC(C1=C(C=CC=C1)OC1=C(C(=CC=C1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)=O)CC)CCC)=O | C37H40O7
reactant | dimethylformamide dimethylacetal | 7 mmol, 0.9 mL | COC(N(C)C)OC | C5H13NO2
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1 N | Cl | ClH
product | 2-(3-{3-[2-Ethyl-5-hydroxy-4-(2H-pyrazol-3-yl)phenoxy]propoxy}-2-propyl-phenoxy)benzoic acid | 2.1 g, 63% | C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)O)C=CC=C3)C=CC2)CCC)C=C(C(=C1)C=1NN=CC1)O | C30H32N2O6
